* SKY130 Bandgap Voltage Reference — Starter Topology
* Classic PTAT + CTAT using parasitic PNP BJTs

.lib "sky130_models/sky130.lib.spice" tt

* Supply
Vdd vdd 0 1.8
Vss vss 0 0

* === Core: Two PNP branches with different emitter counts ===

* Branch 1: single PNP (1x)
XQ1 vss n1 n1 vss sky130_fd_pr__pnp_05v5_W0p68L0p68 m=1

* Branch 2: N parallel PNPs (Nx) — emitter area ratio sets PTAT slope
XQ2 vss n2 n2 vss sky130_fd_pr__pnp_05v5_W0p68L0p68 m=8

* PTAT resistor between emitters
Rptat n1 n2 {Rptat}

* === Current mirror forces equal currents through both branches ===
XMp1 n1 n1 vdd vdd sky130_fd_pr__pfet_01v8 W={Wm}u L={Lm}u nf=1
XMp2 n2 n1 vdd vdd sky130_fd_pr__pfet_01v8 W={Wm}u L={Lm}u nf=1
XMp3 vref n1 vdd vdd sky130_fd_pr__pfet_01v8 W={Wm}u L={Lm}u nf=1

* === Output: sum PTAT and CTAT currents through Rout ===
Rout vref vss {Rout}

* === Startup circuit: ensure circuit exits zero-current state ===
XMs1 nstart nstart vdd vdd sky130_fd_pr__pfet_01v8 W={Wstart}u L=1u nf=1
XMs2 nstart n1 vss vss sky130_fd_pr__nfet_01v8 W={Wstart}u L=1u nf=1
Cstart nstart vss 1p

* === Measurements ===
.control
* DC operating point at 27C
op
let vref_val = v(vref)
echo "RESULT_VREF_V" $&vref_val

* Power
let pwr = abs(v(vdd) * i(Vdd)) * 1e6
echo "RESULT_POWER_UW" $&pwr

* Temperature sweep for tempco
dc temp -40 125 1
wrdata temp_sweep v(vref)

* Find min and max Vref over temperature
meas dc vref_max max v(vref)
meas dc vref_min min v(vref)
let vref_nom = (vref_max + vref_min) / 2
let tempco_val = (vref_max - vref_min) / vref_nom / 165 * 1e6
echo "RESULT_TEMPCO_PPM" $&tempco_val

* Line regulation: sweep VDD from 1.4 to 2.2
dc Vdd 1.4 2.2 0.01
wrdata line_sweep v(vref)
meas dc vref_at_14 find v(vref) at=1.4
meas dc vref_at_22 find v(vref) at=2.2
let line_reg = abs(vref_at_22 - vref_at_14) / 0.8 * 1000
echo "RESULT_LINE_REG_MV_V" $&line_reg

* PSRR: AC analysis with stimulus on VDD
alter @Vdd[mag] = 1
ac dec 100 1 1G
meas ac psrr_gain find vdb(vref) at=100
let psrr_val = -psrr_gain
echo "RESULT_PSRR_DB" $&psrr_val

echo "RESULT_DONE"
.endc

.end
